US05952363
(3R,4R)-1-Benzyl-3,4-dibenzyloxy-2-(1-hydroxyethyl)pyrrolidine
1 M lithium aluminiumhydride in tetrahydrofuran (1.5 ml, 1.5 mmol) was added slowly to a solution of (3R,4R)-1-benzyl-3,4-dibenzyloxy-2-acetylpyrrolidine (390 mg, 0.94 mmol) in dry tetrahydrofuran (5 ml) at 0-5° C. Stirring was continued for 11/2 hour at room temperature. Water (1 ml) was slowly added. The mixture was filtered and the filtrate was evaporated to dryness in vacuo to give the title compound as an oil. Purification of the crude product on a silica gel column (Eluent: methylene chloride: ethyl acetate (9:1)) afforded (3R,4R)-1-benzyl-3,4-dibenzyloxy-2-(1-hydroxyethyl)pyrrolidine (90 mg, yield 23%) as an oil.

reactant | lithium aluminiumhydride | 1 M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (3R,4R)-1-benzyl-3,4-dibenzyloxy-2-acetylpyrrolidine | 0.94 mmol, 390 mg | C(C1=CC=CC=C1)N1C([C@H]([C@@H](C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)C(C)=O | C27H29NO3
reactant | Water | 1 ml | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 mmol, 1.5 ml | O1CCCC1 | C4H8O
product | (3R,4R)-1-Benzyl-3,4-dibenzyloxy-2-(1-hydroxyethyl)pyrrolidine | C(C1=CC=CC=C1)N1C([C@H]([C@@H](C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)C(C)O | C27H31NO3
